US04831032
6-(4-Pyridyl)-1-methyl-1,5-dihydrobenzo[1,2-d:4,5-d']diimidazole
4.40 g. (20.0 mMole) 1-methyl-5,6-dinitrobenzimidazole and 0.5 g. Adams catalyst in 250 ml. ethanol are hydrogenated for 4 hours at 40° C. and 4 bar hydrogen pressure. The catalyst is filtered off and the filtrate, after the addition of 2.10 g. (20.0 mMole) pyridine-4-aldehyde and 3 ml. concentrated hydrochloric acid, is heated to the boil under reflux. After chromatographed purification (silica gel; ethyl acetate/methanol 1:1 v/v) and evaporation of the appropriate fractions, there is obtained 1.1 g. (21% of theory) of the desired product in the form of colourless crystals of the semihydrochloride; m.p.>280° C.

reactant | 1-methyl-5,6-dinitrobenzimidazole | 20.0 mMole | CN1C=NC2=C1C=C(C(=C2)[N+](=O)[O-])[N+](=O)[O-] | C8H6N4O4
reactant | hydrogen | [H][H] | H2
reactant | pyridine-4-aldehyde | 20.0 mMole | N1=CC=C(C=C1)C=O | C6H5NO
reactant | hydrochloric acid | Cl | ClH
catalyst | Adams catalyst | O=[Pt]=O
solvent | ethanol | C(C)O | C2H6O
product | 6-(4-Pyridyl)-1-methyl-1,5-dihydrobenzo[1,2-d:4,5-d']diimidazole | N1=CC=C(C=C1)C=1NC=2C(N1)=CC1=C(N=CN1C)C2 | C14H11N5
